US08283353B2
({trans-4-[5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetonitrile
To a solution (10 mL) of 2-({trans-4-[5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetamide (0.16 g) and pyridine (0.089 mL) in tetrahydrofuran was added trifluoroacetic acid anhydride (0.12 mL) at 0° C., and the mixture was stirred for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless amorphous solid (0.059 g, 38%).

reactant | 2-({trans-4-[5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetamide | 10 mL, 0.16 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)N | C31H33N7O5
reactant | pyridine | 0.089 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 0.12 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ({trans-4-[5-oxo-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetonitrile | 0.059 g, 38% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC#N | C31H31N7O4
